US04402972
Using the procedure of Step A of Example 15, 2 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-carboxy-ethynyl]-cyclopropane-carboxylate, 3 ml of 2-methyl-3-buten-2-ol and 150 mg of 4-dimethylamino-pyridine were admixed at 0° C. with 1.06 g of dicyclohexycarbodiimide in 3 ml of methylene chloride and the mixture was stirred at room temperature for 16 hours. The mixture was evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 9-1 cyclohexane-ethyl acetate mixture yielded 700 mg of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-(1,1-dimethylallyloxycarbonyl)-ethynyl]-cyclopropane-carboxylate.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-carboxy-ethynyl]-cyclopropane-carboxylate | 2 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | 2-methyl-3-buten-2-ol | 3 ml | CC(C)(C=C)O | C5H10O
catalyst | 4-dimethylamino-pyridine | 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-(1,1-dimethylallyloxycarbonyl)-ethynyl]-cyclopropane-carboxylate | 700 mg | CC1([C@@H]([C@@H]1C#CC(=O)OC(C=C)(C)C)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H27NO5
